US07238716B2
To a mixture of 4-[4-(4-benzoyl-3-hydroxyphenoxymethyl)phenoxymethyl]-5-methyl-2-phenyloxazole (1.52 g) and N,N-dimethylformamide (20 mL) was added sodium hydride (60%, oil, 0.14 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Methyl bromoacetate (0.57 g) was added to the mixture and the mixture was stirred at 80° C. for 2 hrs., The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. After concentration of the organic layer, the residue was subjected to silica gel column chromatography to give methyl 2-[2-benzoyl-5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenoxy]acetate as an oil (1.65 g, 94%) from a fraction eluted with ethyl acetate-hexane (1:2, v/v).

reactant | 4-[4-(4-benzoyl-3-hydroxyphenoxymethyl)phenoxymethyl]-5-methyl-2-phenyloxazole | 1.52 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC2=CC=C(OCC=3N=C(OC3C)C3=CC=CC=C3)C=C2)C=C1)O | C31H25NO5
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | Methyl bromoacetate | 0.57 g | BrCC(=O)OC | C3H5BrO2
solvent | water | O | H2O
product | methyl 2-[2-benzoyl-5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenoxy]acetate | 1.65 g, 94% | C(C1=CC=CC=C1)(=O)C1=C(OCC(=O)OC)C=C(C=C1)OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C34H29NO7
